US04873248
Phosphoryl chloride (5 g) was added to the solution of 4-o-chlorophenyl-6-hydroxy-2-(6-methyl-2-pyridinyl)pyrimidine (5 g) in toluene (100 ml). The mixture was heated under reflux for 1 hour and left to stand to room temperature. Aqueous sodium carbonate solution was added thereto until the reaction solution became about pH 8 to be separated into two layers. Toluene layer was washed with water and dried over anhydrous magnesium sulfate. The toluene layer was concentrated under reduced pressure to obtain 4-chloro-6-o-chlorophenyl-2-(6-methyl-2-pyridinyl)pyrimidine (4.6 g).

reactant | Phosphoryl chloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-o-chlorophenyl-6-hydroxy-2-(6-methyl-2-pyridinyl)pyrimidine | 5 g | ClC1=C(C=CC=C1)C1=NC(=NC(=C1)O)C1=NC(=CC=C1)C | C16H12ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-o-chlorophenyl-2-(6-methyl-2-pyridinyl)pyrimidine | 4.6 g | ClC1=NC(=NC(=C1)C1=C(C=CC=C1)Cl)C1=NC(=CC=C1)C | C16H11Cl2N3
